US05239083
4-{2-[3-[1-(1-ethylpentyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid (Compound 18)
1.11 g of compound 18 was obtained in a similar manner to those described in the Examples 1 and 2 using 2.18 g of ethyl 4-(2-aminophenoxy)butyrate and 1.47 g of 3-[1-(1-ethylpentyl)indol-5-yl]isocrotonic acid obtained according to the procedures described in the Reference Examples 1-4.

reactant | ethyl 4-(2-aminophenoxy)butyrate | 2.18 g | NC1=C(OCCCC(=O)OCC)C=CC=C1 | C12H17NO3
reactant | 3-[1-(1-ethylpentyl)indol-5-yl]isocrotonic acid | 1.47 g | C(C)C(CCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)O)/C | C19H25NO2
product | 4-{2-[3-[1-(1-ethylpentyl)indol-5-yl]isocrotonoyl amino]phenoxy}butyric acid | C(C)C(CCCC)N1C=CC2=CC(=CC=C12)/C(=C/C(=O)NC1=C(OCCCC(=O)O)C=CC=C1)/C | C29H36N2O4
